US09120749B2
tert-Butyl trans-4-[3-(cyclopropanecarbonyl)-6-(1H-pyrazol-4-yl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate (49 mg, 0.100 mmol) was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (39 mg, 0.200 mmol) to afford the desired product (17 mg, 36%) as an off-white solid: ESI MS m/z 476 [C27H33N5O3+H]+.

reactant | tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate | 0.100 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H32BrN3O3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.200 mmol, 39 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | tert-Butyl trans-4-[3-(cyclopropanecarbonyl)-6-(1H-pyrazol-4-yl)quinolin-4-ylamino]cyclohexylcarbamate | 17 mg, 36% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C=1C=NNC1 | C27H33N5O3
